US08557983B2
4-(tert-Butyl-dimethyl-silanyloxy)-1H-benzotriazole
To 4-hydroxybenzotriazole (5.000 g) in tetrahydrofuran (250 mL) was added sodium hydride (60%, 0.932 g). The solution was stirred at room temperature for 20 minutes, cooled to 0° C., tert-butyldimethylchlorosilane (5.860 g) was added, the solution was allowed to warm to room temperature, and stirred for 16 hours. Additional sodium hydride (60%, 0.500 g) was added, the solution stirred for 15 minutes, additional tert-butyldimethylchlorosilane (3.000 g) was added, and the solution stirred for three hours at room temperature. The solution was then added to saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, concentrated and purified by flash column chromatography on silica gel using 20-30% ethyl acetate in hexanes.

reactant | 4-hydroxybenzotriazole | 5.000 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | sodium hydride | 0.932 g | [H-].[Na+]
reactant | tert-butyldimethylchlorosilane | 5.860 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | sodium hydride | 0.500 g | [H-].[Na+]
reactant | tert-butyldimethylchlorosilane | 3.000 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 4-(tert-Butyl-dimethyl-silanyloxy)-1H-benzotriazole | C(C)(C)(C)[Si](OC1=CC=CC=2NN=NC21)(C)C | C12H19N3OSi
